US09284333B2
A mixture of 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (Comp. No. 6a) (0.95 g, 3.25 mmol) and potassium hydroxide (0.91 g, 16.3 mmol) in water (33 ml) was stirred at 100° C. until complete conversion according to LC/MS (ca. 1 h). Approximately half of the solvents were evaporated in vacuo and the mixture was acidified with excess hydrochloric acid. The forming precipitate was filtered off, washed once with water and dried in vacuo to give 0.76 g (88%) of 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid as white solid. LC/MS (method 4): Rt=0.92 min; m/z=265.17 (M+H+).

reactant | 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(N2C1COCC2)C(=O)N2CCCC2 | C15H20N2O4
reactant | potassium hydroxide | 16.3 mmol, 0.91 g | [OH-].[K+]
solvent | water | 33 ml | O | H2O
product | 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | 0.76 g, 88% | N1(CCCC1)C(=O)C1=CC(=C2COCCN21)C(=O)O | C13H16N2O4
